US09085586B2
A mixture of ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate (3.00 g, 10.26 mmol, 1.00 equiv) and DDQ (5.83 g, 25.68 mmol, 2.50 equiv) in 1,4-dioxane (30 mL) was stirred for 2 h at 90° C. in an oil bath under nitrogen. The reaction mixture was cooled to room temperature and quenched with saturated aqueous Na2CO3, extracted with 3×40 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:1) to provide the desired ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate (2.00 g, 68%) as a yellow solid. LCMS (ES, m/z): 289 (M+H+).

reactant | ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate | 10.26 mmol, 3.00 g, 1.00 equiv | OC=1C=2C=3CC(CCC3SC2N=CN1)CC(=O)OCC | C14H16N2O3S
reactant | DDQ | 25.68 mmol, 5.83 g, 2.50 equiv | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0^[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-12-yl]acetate | 2.00 g, 68% | OC=1C=2C=3C=C(C=CC3SC2N=CN1)CC(=O)OCC | C14H12N2O3S
